US08835470B2
2-Hydroxy-2-(4-(5-(3-phenyl-4-(trifluoromethyl)isoxazol-5-yl)-1,2,4-oxadiazol-3-yl)phenyl)acetic acid (Int-Va, 35 mg, 0.081 mmol) was dissolved in DMF (1 mL) prior to the addition of 4-methylmorpholine (0.054 mL, 0.487 mmol), (3-methylisoxazol-5-yl)methanamine (16.38 mg, 0.146 mmol), and BOP (64.6 mg, 0.146 mmol). This was stirred overnight and was then purified by preparative HPLC (PHENOMENEX® Luna 5u C18 21.2×100 mm, gradient elution with Method 1—MeOH/water containing 0.1% trifluoroacetic acid as defined above, 0% B to 100% B over 10 min, 20 mL/min, 220 nM, product retention time=11.8 min) to give single enantiomer 2-hydroxy-N-((3-methylisoxazol-5-yl)methyl)-2-(4-(5-(3-phenyl-4-(trifluoromethyl)isoxazol-5-yl)-1,2,4-oxadiazol-3-yl)phenyl)acetamide (14.1 mg, 0.025 mmol, 30.8% yield): LCMS=526.3 [M+H]+; 1H NMR (400 MHz, methanol-d4) δ ppm 8.13-8.24 (2 H, m), 7.66-7.78 (4 H, m), 7.53-7.66 (3 H, m), 6.04 (1 H, s), 5.19 (1 H, s), 4.51 (2 H, s), 2.22 (3 H, s); HPLC Peak=9.9 min (Analytical Method A).

reactant | 2-Hydroxy-2-(4-(5-(3-phenyl-4-(trifluoromethyl)isoxazol-5-yl)-1,2,4-oxadiazol-3-yl)phenyl)acetic acid | 0.081 mmol, 35 mg | OC(C(=O)O)C1=CC=C(C=C1)C1=NOC(=N1)C1=C(C(=NO1)C1=CC=CC=C1)C(F)(F)F | C20H12F3N3O5
reactant | 4-methylmorpholine | 0.487 mmol, 0.054 mL | CN1CCOCC1 | C5H11NO
reactant | (3-methylisoxazol-5-yl)methanamine | 0.146 mmol, 16.38 mg | CC1=NOC(=C1)CN | C5H8N2O
reactant | BOP | 0.146 mmol, 64.6 mg | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | 2-hydroxy-N-((3-methylisoxazol-5-yl)methyl)-2-(4-(5-(3-phenyl-4-(trifluoromethyl)isoxazol-5-yl)-1,2,4-oxadiazol-3-yl)phenyl)acetamide | 0.025 mmol, 14.1 mg, 30.8% yield | OC(C(=O)NCC1=CC(=NO1)C)C1=CC=C(C=C1)C1=NOC(=N1)C1=C(C(=NO1)C1=CC=CC=C1)C(F)(F)F | C25H18F3N5O5
